US07157470B2
Part A: To a solution of 4-iodoaniline (10.0 g, 45.6 mmol) in dichloromethane (100 mL) were slowly added pyridine (7.4 mL, 91.3 mmol) and TFAA (7.1 mL, 50.22 mmol) at 0° C. The reaction was stirred at 0° C. for one hour. Water (50 mL) was added, and the organic layer was separated. The aqueous layer was further extracted with dichloromethane. The organic layers were combined, washed with water and brine, dried over magnesium sulfate, and filtered. Removal of the solvent gave the desired 2,2,2-trifluoro-N-(4-iodo-phenyl)-acetamide as a white solid.

reactant | 4-iodoaniline | 45.6 mmol, 10.0 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | pyridine | 91.3 mmol, 7.4 mL | N1=CC=CC=C1 | C5H5N
reactant | TFAA | 50.22 mmol, 7.1 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | Water | 50 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-N-(4-iodo-phenyl)-acetamide | FC(C(=O)NC1=CC=C(C=C1)I)(F)F | C8H5F3INO
